US04124725
A solution of 5 g. of 4-(4-nitrobenzoyl)-2,6-di(t-butyl)phenol in 150 ml. of ethanol is treated with 40 ml. of ammonium sulfide solution. The mixture is heated at reflux for 2 hours then stirred without heating for about 16 hours. An additional 40 ml. of ammonium sulfide solution is added, and the mixture is heated at reflux for 4 hours more. After an additional 16 hours without heating, the mixture is extracted with dichloromethane, and the extracts are dried. Evaporation of the dried extracts provides a solid residue which is recrystallized twice from a benzene-hexane mixture to provide 4-(4-aminobenzoyl)-2,6-di(t-butyl)phenol as a light yellow solid, m.p. 164.5°-166.5° C.

reactant | 4-(4-nitrobenzoyl)-2,6-di(t-butyl)phenol | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C1 | C21H25NO4
reactant | ammonium sulfide | [NH4+]=S
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-aminobenzoyl)-2,6-di(t-butyl)phenol | NC1=CC=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C1 | C21H27NO2
